US04025637
A mixture of ethyl 2-(3-amino-4-hydroxyphenyl)propionate (1.2 g.), mandelic acid (1 g.) and xylene (50 ml.) was heated using a Dean and Stark apparatus. After 24 hours, the solution was evaporated to dryness and the residue was taken up in chloroform. This solution was washed first with sodium hydroxide solution, then with hydrochloric acid and finally dried over sodium carbonate. The solution was evaporated to dryness to give ethyl 2-[2-(α-hydroxybenzyl)-5-benzoxazolyl]propionate, the structure of which was confirmed by n.m.r. spectroscopy.

reactant | ethyl 2-(3-amino-4-hydroxyphenyl)propionate | 1.2 g | NC=1C=C(C=CC1O)C(C(=O)OCC)C | C11H15NO3
reactant | mandelic acid | 1 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 2-[2-(α-hydroxybenzyl)-5-benzoxazolyl]propionate | OC(C1=CC=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(C(=O)OCC)C | C19H19NO4
